US04447361
[2-[(3-Amino-2-pyridinyl)amino]phenyl](4-fluorophenyl)methanone
A stirred mixture of 35 g (0.163 mole) of 2-amino-4'-fluorobenzophenone and 27 g (0.21 mole) of 3-amino-2-chloropyridine was heated at 175°-180° C. for 2.5 hr. The mixture was allowed to cool to 110° C., after which 100 ml of hot toluene was added. On cooling to 50° C., 50 ml of methylene chloride was added. The solvent layer was decanted, leaving a black solid mass which was dissolved in hot methanol. The solution volume was reduced by one half and allowed to stand overnight at room temperature. The mixture was filtered and the filter cake washed twice by suspending in methylene chloride. The weight of crude solid produced was 22.5 g. The solid was dissolved in methanol and basified with 50% aqueous sodium hydroxide. The mixture was extracted with methylene chloride and the extract dried and concentrated. The residue was twice crystallized from isopropyl alcohol, decolorizing by boiling with charcoal the second time, to give 14 g (28%) solid which was red-orange in color; m.p. 121.5°-122.5° C.

reactant | 2-amino-4'-fluorobenzophenone | 0.163 mole, 35 g | NC1=C(C(=O)C2=CC=C(C=C2)F)C=CC=C1 | C13H10FNO
reactant | 3-amino-2-chloropyridine | 0.21 mole, 27 g | NC=1C(=NC=CC1)Cl | C5H5ClN2
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | [2-[(3-Amino-2-pyridinyl)amino]phenyl](4-fluorophenyl)methanone | 14 g, 28% | NC=1C(=NC=CC1)NC1=C(C=CC=C1)C(=O)C1=CC=C(C=C1)F | C18H14FN3O
